US05371096
A solution of 18.96 g (0.12 mole) of 3-bromopyridine in 50 ml of ether is added dropwise into a 54.72 ml (0.11 mole) of 2.01M n-butyllithium in hexane in 550 ml of ether at -78° C. with stirring under argon over a period of 20 min. The mixture is stirred for another 1/2 h and a solution of 30.35 g (0.0902 mole) of 2-[3-(2-methoxyethoxymethoxy)propyl]-2-(2-methoxyethoxymethoxy)-γ-butyrolactone in 30 ml of ether is added dropwise over a period of 10 min. The mixture is stirred at -78° C. for 2 h, allowed to warm up to -20° C., quenched with 15 ml of saturated aqueous ammonium chloride and washed with water and brine. The ether layer is dried (MgSO4) and evaporated to give 2,5-bis-(2-methoxyethoxymethoxy)-3-nicotinoyl-hexan-1-one as an oil.

reactant | 3-bromopyridine | 0.12 mole, 18.96 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | n-butyllithium | 0.11 mole, 2.01M, 54.72 ml | C(CCC)[Li]
reactant | 2-[3-(2-methoxyethoxymethoxy)propyl]-2-(2-methoxyethoxymethoxy)-γ-butyrolactone | 0.0902 mole, 30.35 g | COCCOCOCCCC1(C(=O)OCC1)OCOCCOC | C15H28O8
reactant | ether | 50 ml | CCOCC | C4H10O
reactant | ether | 550 ml | CCOCC | C4H10O
reactant | ether | 30 ml | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | 2,5-bis-(2-methoxyethoxymethoxy)-3-nicotinoyl-hexan-1-one | COCCOCOC(C=O)C(CC(C)OCOCCOC)C(C1=CN=CC=C1)=O | C20H31NO8
